US05204462
After a tetrahydrofuran solution (12.4 ml) of N-tert-butoxycarbonyl-L-methionine (1.24 g) was cooled to -15° C., N-methylmorpholine (0.55 ml) and isobutyl chloroformate (0.60 ml) were added to the solution, and the mixture was stirred for 20 minutes. Subsequently, an N,N-dimethylformamide solution (8.27 ml) containing 2-amino-6-methylbenzoic acid (0.50 g) and N-methylmorpholine (0.44 ml) was added dropwise, and the mixture was stirred at -15° C. for 0.5 hour and then at room temperature overnight. The reaction mixture was treated by the same procedures as in item (c) of Example 1 to obtain 6-methyl-2-[(N-tert-butoxycarbonyl-L-methionyl)amino]benzoic acid (348 mg).

reactant | N-tert-butoxycarbonyl-L-methionine | 1.24 g | C(C)(C)(C)OC(=O)N[C@@H](CCSC)C(=O)O | C10H19NO4S
reactant | N-methylmorpholine | 0.55 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.60 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-amino-6-methylbenzoic acid | 0.50 g | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
reactant | N-methylmorpholine | 0.44 ml | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 8.27 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 12.4 ml | O1CCCC1 | C4H8O
product | 6-methyl-2-[(N-tert-butoxycarbonyl-L-methionyl)amino]benzoic acid | 348 mg | CC1=CC=CC(=C1C(=O)O)NC([C@@H](NC(=O)OC(C)(C)C)CCSC)=O | C18H26N2O5S
